US05120843
1,2-Methylenedioxy-4-[3-mesyloxypropyl]benzene
A solution of 1,2-methylenedioxy-4-[3-hydorxypropyl]benzene, (10.0 g), methanesulfonyl chloride (6.33 g, 4.28 ml) and triethylamine (5.6 g) in methylene chloride (100 ml) is stirred at 0° for 2 hr. The reaction mixture is partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase is dried over sodium sulfate and concentrated. The residue is dissolved in acetonitrile (100 ml).

reactant | 1,2-methylenedioxy-4-[3-hydorxypropyl]benzene | 10.0 g | C1OC2=C(C=C(C=C2)CCCO)O1 | C10H12O3
reactant | methanesulfonyl chloride | 4.28 ml, 6.33 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,2-Methylenedioxy-4-[3-mesyloxypropyl]benzene | C1OC2=C(C=C(C=C2)CCCOS(=O)(=O)C)O1 | C11H14O5S
